Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"really depressed using drugs and taking my medictions..I'm
really depressed I've never had thoughts of suicide before..if I
get out of here I know I'll hurt myself."

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ yo cauc. male with hx of squamous cell
carcinmoma {head,neck stage iv}with hx of demonstrated multiple
pathologically enlarge lymph nodes,began concurrent
chemoradiation with bolus cisplatin on ___ and completed
therapy on ___ and hx of cocaine,heroin and alcohol abuse
now with suicidal ideation and thoughts of overdosing.The 
patient
is now approximately one year and 10 months out from his
combination chemo with bolus cisplatin on ___ and completed
on ___ currently with no evidence of active disease.However
he continues to have severe neck pain where he previously had
radiation and is taking [2] Morphine every 2 hours and requiring
Fentanyl in addition and using cocaine for "breaktrhrough pain."
The patient was referred to the ED by his oncologist as his
family had had called her today reporting to her that he was
threatening suicidal by overdose and was having active thoughts
of suicide.His family was also very concerned about his mental
status because of his ongoing abuse of street drugs in
combination with his baseline narcotics for head and neck pain.
The patient reports that he has used drugs since age ___ and has
multiple detoxes @ ___ and was clean for ___ years from
___ reports that he relapsed a few months ago, last 
used
cocaine yesterday and has been calling detoxes but said because
he is currently being prescribed prescription Morphine no detox
will admit him.
He denies that he has a psychiatric hx other than substance 
abuse
and the only treatment he has had has been detox.
He said " I was diagnosied with cancer ___ years ago and I'm on
tube feeds and I was at my mother's today ..I'm homeless my g.f.
kicked me out 2 weeks ago so my sister called ___ she knew I was trying to get into detox.I relapsed lost
my job, lost my house and I've haven't been able to take
medications because of the hole in my feeding tube."
He reports that he has been depressed for the past 2 months, 
with
increased anxiety and at times racing thoughts,sleep "very
erratic" and more recently has been sleeping all day with poor
energy and now with si.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations:none
The patient has had multiple detoxes all @ ___ with 
transitons
to ___ to a dry shelter
Current treaters and treatment:none
Medication: none
Self-injury:denies
Harm to others:denies
Access to weapons:denies

PAST MEDICAL HISTORY:
* PCP ___ @ ___
* Oncologist Dr. ___ @ ___
* hx of Squamous cell carcinoma of the L tonsil
* hx of enlarged lymphs nodes in levels IIA abd III on the L 
side
* s/p concurrent chemoradiation with bolus cisplatin on ___
  completed therapy on ___
* hypothyroid
* hepatitis recorded in the chart unclear details
* hx of anal and genital warts
* s/p appendectomy 
* wisdom teeth extractions
* hx of dysphagia sec to radiation fibrosis of the pharynx 
* esophageal stenosis

 
Social History:
SUBSTANCE ABUSE HISTORY:
alcohol:patient denies, per OMR he has a hx of abuse
illicits: cocaine, last used yesterday and heroin, denies IVDA
tob:"occ once in a while" previously was smoking 1 p q 2 days
caffeine: coffee

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
* father alcoholic and died of cirrhosis at age ___

 
Physical Exam:
At admission: 
*VS:  BP:117/76   HR: 70  temp: 98.3   resp:18  O2 sat:98% RA  
as of ___ height:67 inches   weight:136.2  

Neurological:  
 *station and gait:wnl 
 *tone and strength:wnl
 cranial nerves: not tested
 abnormal movements:none noted 
 frontal release:not tested

Cognition: 
 Wakefulness/alertness:alert
 *Attention (digit span, MOYB):MOYB
 *Orientation:" the ___ "___ I don't the date,
___ US.Pres."Obama" 
 Executive function (go-no go, Luria, trails, FAS):not tested
 *Memory: 3 out of 3 in 5"  
 *Fund of knowledge:  wnl " the ___ Sox in the playoffs"
 Calculations: 9 quarters = $2.25 
 Abstraction:apple/oranges "fruit" 
 Visuospatial: not tested
 *Speech:soft but articualte 
 *Language: intact
 
Mental Status:
 ___ yo cauc. thin,male dressed in hospital gown, 
with
adequate hygiene and grooming, neatly trimmed beared and tatoos,
multiple teeth missing and maintains eye contact  
 Behavior: in good ciontrol
 *Mood and Affect:depressed, teary reports he feels anxious 
 *Thought process / *associations: linear and logical with loa
but reports racing thoughts 
 *Thought Content: denies AVH, denies paranoid ideation only
"when I'm using"
 *Judgment and Insight:impaired/impaired  
At discharge:

 
Pertinent Results:
___ 04:13PM BLOOD WBC-4.7 RBC-3.96* Hgb-12.7* Hct-38.4* 
MCV-97 MCH-32.1* MCHC-33.0 RDW-11.7 Plt ___
___ 04:13PM BLOOD Neuts-75.0* Lymphs-17.0* Monos-5.5 
Eos-1.5 Baso-1.0
___ 04:13PM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-81 UreaN-11 Creat-1.0 Na-142 
K-4.6 Cl-103 HCO3-31 AnGap-13
___ 04:13PM BLOOD ALT-11 AST-14 AlkPhos-127 TotBili-0.3
___ 07:30AM BLOOD Calcium-9.2 Phos-4.2 Mg-1.___ yo man with hx of stage 4 SCC of left tonsil, previously on 
chronic PEG supplemental nutrition; with cocaine and alcohol 
abuse who presents with SI after having difficulty getting into 
a detox program given his chronic medical illness and opioid 
dependence.

PSYCHIATRIC

#) SIMD/PSA
Patient presented with depression and SI but reported that these 
thoughts went away when he was admitted. During his admission to 
the medicine service, he was placed on 7.5mg mirtazapine which 
helped mitigate his symptoms of hopelessness and may have 
improved his appetite as well. During his stay on Deac 4, we 
increased the dose to 15mg QHS which helped the pt to achieve 
good sleep nightly, and he also ate meals routinely with a very 
good appetite.

Patient expressed significant anxiety about being discharged to 
a shelter, as he was certain that he would quickly relapse on 
drugs if he was not in a controlled hospital setting. He also 
expresses anxiety at currently being homeless,as his long time 
girlfriend has kicked him out of her home given his 
polysubstance abuse. 

Despite reports of anxiety, Mr. ___ remained safe during his 
hospital stay and consistently engaged animatedly with peers in 
the milieu.  He denied si except he would tell us repeatedly 
that if we did not find a "long-term" rehab placement for him 
and d/c'd him to a shelter, he would plan to relapse on drugs 
and then would likely become suicidal again.  Mr. ___ was 
encouraged to work toward sobriety and engage in his recovery 
while on our hospital unit.  Although he attended a couple of 
unit groups and AA meetings early in his admission, he refused 
to engage further in recovery work, and he repeatedly told us 
that he was waiting for "rehab placement" to begin such work.  
We advised the patient using drugs/etoh upon d/c would be his 
choice, and we strongly recommended that he avoid use of illicit 
drugs and etoh.  

Patient was difficult to find long-term placement for in a 
substance rehab program or medical respite due to his medical 
complexities. Patient was told that if he were able to take less 
PRN morphine or transition to methadone, that perhaps placement 
would be easier. The patient reported that he needed to continue 
his morphine at home doses and that he adamantly refused to make 
changes to his pain regimen.  

We discussed his pain medication regimen with Dr. ___, 
___ oncologist/prescriber. She voiced some concern over 
increasing the fentanyl patch (in order to decrease frequency of 
breakthrough morphine ___ and would prefer to have pain consult 
help us convert him to methadone, which she has raised 
previously to the patient, but he has been resistant.  The team 
reiterated this recommendation daily with the patient, who 
consistenly refused such an option and was adamant that he will 
not consider different meds.  We also discussed with the patient 
his long h/o drug abuse and suggested that he has a dependency 
on fentanyl and morphine.  Mr. ___ had no insight into this 
and refused to discuss further with the team.  He would become 
upset and end our meetings when we attempted to direct our 
meetings toward discussions about his drug abuse and options for 
recovery. 

#) SECONDARY GAIN
Mr. ___ underwent a lengthy inpatient psychiatric admission 
as the team attempted to work with him to improve his prognosis. 
 We shared the diagnostic impression that despite his cancer and 
chronic pain (which could both perpetuate depression), his drug 
abuse appears to largely drive his mood d/o and current 
psychosocial stressors including homelessness. 

The team repeatedly encouraged Mr. ___ to work toward his 
recovery during his long hospitalization here on Deac 4 by 
attending groups and working with the team via insight-oriented 
meetings.  Mr. ___ consistently became upset and ended our 
meetings when attempted to engage him in talk about recovery, 
and he refused to consider alternatives to Q2h morphine/fentanyl 
patches.  He also repeatedly told us that if we d/c'd him to a 
shelter he would abuse illicit drugs and then likely become 
suicidal.  
Despite the above, he never self-harmed on the unit and was 
highly animated with peers.  After pursuing placements for him 
in rehab facilities, all of which rejected him due to dependency 
on morphine/fentanyl patch and unwillingness to transition to 
methadone, it appeared likely that Mr. ___ was making 
threats of relapse/suicide to gain shelter on Deac 4.  

On the day of discharge, the patient denied SI/HI, depression, 
or any other acute problems.  He did state that he does not like 
sheltered living, and had no intentions of going to the ___ Medical Stay-Inn Bed which we had arranged for him.  
The patient asked the team to allow him to stay in his hospital 
bed until he could arrange a stable residence.  The pt was 
advised that hospitalization was no longer necessary and that we 
recommend he utilize the sheltered housing which had been 
arranged for him.  
  

GENERAL MEDICAL CONDITIONS
#) CANCER
Patient has history of SCC of left tonsil on chronic PEG. While 
patient was admitted he was followed by nutrition including 
daily calorie counts. They deemed his oral intake to be 
sufficient and patient did not need to use his PEG tube at all 
since his arrival. We notified his oncologist Dr. ___ 
improved po intake and that the GI tube may be able to be 
removed in the near future. Patient continued to take morphine 
at his home dose for his cancer pain. 

#) HYPOTHYROIDISM
He continued levothyroxine at his home dose. 

#) TOOTH PAIN
During admission, patient experienced some tooth pain that 
resolved with tylenol.  He had no fevers or signs of infection.

PSYCHOSOCIAL
#) GROUPS/MILIEU
The pt was highly animated and engaing with the peers on the 
unit.  He never engaged in any unsafe behaviors, and he was 
often found on the telephone talking with friends/family.  He 
did occasionally attend groups including AA at the beginning of 
his hospital stay, but he then declined most groups during the 
last couple of weeks of admission.  The pt ate all meals in the 
milieu, slept well, and cooperated with unit rules.  

#) COLLATERAL
The pt allowed us to speak with his GF, with whom he was 
previously living.  She reported that due to his relapse on 
drugs and lack of motivation for change, he could not return 
home.  She understood that he was recently suicidal and agreed 
that using illicit drugs is the precipitant for him not doing 
well.

#) PLACEMENT
At the pt's request for ___ rehab, the team attempted to 
have the pt d/c'd to subst abuse residential programs, sober 
living residences, or nursing home placement.  All programs, 
which are listed below, have declined Mr. ___ due to his 
cont'd use of narcotics and unwillingness to consider transition 
to methadone.  

-___ in ___
-___ House ___ in ___ 
-___ residential ___
-___ residential ___ partial + dorm
-___ ___
-___ ___ ___ ___ SA resid ___
-___ SA resid ___
-___
-___

LEGAL
Patient signed CV and remained on such during his hospital stay.

RISK ASSESSMENT
This patient is currently sober, not suicidal/homicidal, is 
feeling well and is highly animated and euthymic in the milieu, 
all of which indicate a low immediate risk of harm. 
He does, however, have a very high risk of relapse on illicit 
drugs which gives him an overall poor prognosis and a high 
chance of future suicidal thoughts/self-harm.

Static risk factors include:
White male with a h/o suicidal thoughts in the context of 
illicit drug use.

Modifiable risk includes:
Chronic pain (which is well-controlled per the patient on 
Morphine and Fentanyl), recent SIMD (which was treated by a 
lengthy inpatient psychiatric admission where the pt 
successfully started Remeron and experienced a great improvement 
in mood), and homelessness (which was addressed by arranging a 
placement at the ___ Medical Stay-In Bed).  Mr. 
___ chronic illicit drug use and stated intention to use 
again if d/c'd to a shelter do increase his risk.  We attempted 
to modify this by pursuing placement in a rehab/snf/sober house 
(all of which advised that they would consider the patient if he 
would take methadone in lieu of fentanyl patch/morphine - a 
recommendatino which he rejected).  We also attempted to modify 
this risk by providing a great deal of psychoeducation about 
drugs use and its potential to worsen mood and lead to SI.  Mr. 
___ was given the opportunity on Deac 4 to work on his 
recovery by attending a multitude of groups and meetings about 
substance abuse, most of which he rejected.  
Mr. ___ is considered competent to make his own decisions 
(including those described above), and we advised him upon d/c 
he is likewise competent to accept our referrals and maintain 
sobriety or to reject them.  He was advised that failure to 
comply with recommendations could lead to him suffering 
irreversible damage (i.e. suicide in the context of illicit drug 
use).  To further help Mr. ___, we referred him to a 
substance abuse partial program, and have provided aftercare 
psychiatric treaters.

The patient is protected by the following factors:
He now has about 3 weeks of sobriety from illicits and has many 
outpatient referrals for further care.  He does have a GF who 
appears to be supportive and encouraging him to work toward 
sobriety.  Mr. ___ also is connected to his oncologist, with 
whom he appears to have a good relationship and is motivated to 
continue seeing in follow-up.

PROGNOSIS
Poor due to the fact that this patient is at high risk for 
relapse on drugs, has stated that he will likely use again, and 
is precontemplative in terms of the change process.  
 
Medications on Admission:
Active Medication list as of ___: 
Medications - Prescription
CEVIMELINE [EVOXAC] - Evoxac 30 mg capsule. 1 Capsule(s) by 
mouth
three times a day
FENTANYL [DURAGESIC] - Duragesic 100 mcg/hr transdermal patch.
apply one pat ch every 72 hours
FENTANYL [DURAGESIC] - Duragesic 50 mcg/hr transdermal patch.
apply to skin q72 hour apply with 100mcg patch for total of
150mcg/hour.
LEVOTHYROXINE - levothyroxine 50 mcg tablet. 1 tablet(s) by 
mouth
daily
MORPHINE - morphine 30 mg tablet. ___ Tablet(s) by mouth Q2H do
not drive or operate heavy machinery
ONDANSETRON - ondansetron 8 mg disintegrating tablet. One
Tablet(s) by mouth Three times per day as needed for nausea
ONDANSETRON HCL - ondansetron HCl 8 mg tablet. 1 Tablet(s) by
mouth every eight (8) hours as needed for nausea
RANITIDINE HCL - ranitidine 15 mg/mL syrup. 10 mL by mouth twice
a day
 
Medications - OTC
NICOTINE - nicotine 21 mg/24 hr daily transdermal patch. 1 patch
every 24 hours change daily apply to skin -  (Prescribed by 
Other
Provider)
NICOTINE [NICODERM CQ] - Nicoderm CQ 14 mg/24 hr daily
transdermal patch. as directed once a day
SENNOSIDES [SENEXON] - Senexon 8.8 mg/5 mL syrup. 10 mL by mouth
daily

 
Discharge Medications:
1. Mirtazapine 15 mg PO HS 
RX *mirtazapine 15 mg 1 (One) tablet(s) by mouth at bedtime Disp 
#*14 Tablet Refills:*0
2. cevimeline 30 mg oral TID 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Morphine Sulfate ___ 30 mg PO Q2H:PRN pain 
5. Fentanyl Patch 100 mcg/h TD Q72H 
6. Fentanyl Patch 50 mcg/h TD Q72H 
7. Nicoderm CQ (nicotine) 14 mg/24 hr transdermal Once daily 
8. Senexon (sennosides) 8.8 mg/5 mL (take 10mL)  oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance induced mood d/o, polysubstance abuse
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mr. ___ continues to be found in the milieu engaging 
animatedly with others.  His mood is "okay" and affect is seen 
to be euthymic in the milieu but consistently with providers.  
Pt becomes upset when team recommends changes to his pain med 
regimen and he expresses discontent that he cannot go to 
"long-term" placement or stay in the hospital until he finds a 
place to live other than a shelter.  His speech is normal and 
thoughts are linear and coherent.  He has no 
delusions/ruminations.  He does greatly minimize drug abuse.  Pt 
denies suicidal/homicidal thoughts.  He talked about future 
oriented plans including f/u with his oncologist and 
reconnecting with a friend via ___ who might come from ___ 
to give him a place to stay.  He has no perceptual disturbances. 
 His insight and judgment remain poor (i.e. pt says that he will 
not go to the shelter that was arranged for him, and he will 
still not consider different pain meds). 
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___